US04960432
Preparation of 2,4-diamino-1,3-dimethoxybenzene hydrochloride
The mixture consisting of 77 g of ammonium acetate, 42 g of 10% palladium on charcoal, 0.25 mole (69 g) of 2,4-dimethoxy-3,5-diaminochlorobenzene hydrochloride in 420 ml of ethanol containing 50 ml of water was heated to 75° C. with stirring. 75 g of triethylamine were added and then, 31 g of formic acid were added dropwise. After 30 minutes of additional heating, the reaction mixture was filtered while hot. The filtrate was evaporated to dryness. Upon addition of ethyl acetate, the inorganic salts were precipitated and removed by thorough draining. 10 ml of an alcoholic solution of 7N hydrochloric acid were added to the filtrate which had been dried over sodium sulphate. The expected product precipitated, it was recrystallized from a mixture of water and a solution of hydrochloric acid in ethanol.

reactant | ammonium acetate | 77 g | C(C)(=O)[O-].[NH4+]
reactant | 2,4-dimethoxy-3,5-diaminochlorobenzene hydrochloride | 0.25 mole, 69 g | Cl.COC1=C(C=C(C(=C1N)OC)N)Cl
reactant | water | O | H2O
reactant | triethylamine | 75 g | C(C)N(CC)CC | C6H15N
catalyst | palladium on charcoal | 42 g | [Pd] | Pd
solvent | ethanol | 420 ml | C(C)O | C2H6O
solvent | formic acid | 31 g | C(=O)O | CH2O2
product | 2,4-diamino-1,3-dimethoxybenzene hydrochloride | Cl.NC1=C(C=CC(=C1OC)N)OC | InChI=1S/C8H12N2O2.ClH/c1-11-6-4-3-5(9)8(12-2)7(6)10;/h3-4H,9-10H2,1-2H3;1H
